US07989444B2
2-Methyl-7-(2-{[4-methyl-5-(2-methylquinolin-5-yl)-4H-1,2,4-triazol-3-yl]thio}ethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 7-(2-chloroethyl)-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.11 mmol) and 4-methyl-5-(2-methyl-5-quinolinyl)-2,4-dihydro-3H-1,2,4-triazole-3-thione (0.11 mmol) and was obtained in 40 mg yield.

reactant | 7-(2-chloroethyl)-2-methyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.11 mmol | ClCCN1CCC2=C(CC1)C=C1C(=C2)OC(=N1)C | C14H17ClN2O
reactant | 4-methyl-5-(2-methyl-5-quinolinyl)-2,4-dihydro-3H-1,2,4-triazole-3-thione | 0.11 mmol | CN1C(NN=C1C1=C2C=CC(=NC2=CC=C1)C)=S | C13H12N4S
product | 2-Methyl-7-(2-{[4-methyl-5-(2-methylquinolin-5-yl)-4H-1,2,4-triazol-3-yl]thio}ethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC=1OC2=CC3=C(CCN(CC3)CCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1 | InChI=1S/C27H28N6OS.ClH/c1-17-7-8-21-22(5-4-6-23(21)28-17)26-30-31-27(32(26)3)35-14-13-33-11-9-19-15-24-25(34-18(2)29-24)16-20(19)10-12-33;/h4-8,15-16H,9-14H2,1-3H3;1H
